US07189851B2
Ethyl 2-(4-fluorobenzyl)-4-(6-{[(2-furylmethyl)amino]carbonyl}-3-pyridazinyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate
The mixture of 6-[3-(ethoxycarbonyl)-2-(4-fluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl]-3-pyridazinecarboxylic acid (G, 33 mg, 0.07 mmol), furfurylamine (19.3 mmol, 0.14 mmol), 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (26.7 mg, 0.14 mmol) and 1-hydroxybenzotriazole hydrate (18.8 mg, 0.14 mmol) in 2 ml dichloromethane was stirred for 2 hours. The mixture was then partitioned between water and ethyl acetate. The organic was washed with brine and dried over sodium sulfate. The residue upon the removal of the solvent was purified with flash chromatography. Twelve (12) mg white solid was obtained. NMR (400 MHz, CDCl3) δ 8.38 (d, 1H), 8.08 (d, 1H), 7.20 (t, 2H), 6.92 (t, 2H), 4.78 (m, 1H), 4.67 (d, 2H), 4.40 (dd, 2H), 3.90 (q, 2H), 3.64 (m, 1H), 3.39 (m, 1H), 2.48 (m, 1H), 2.35 (m, 2H), 1.40 (m, 1H), 0.90 (t, 3H) ppm. ESI-MS m/z 556 (M+H)+.

reactant | 6-[3-(ethoxycarbonyl)-2-(4-fluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizin-4-yl]-3-pyridazinecarboxylic acid | 0.07 mmol, 33 mg | C(C)OC(=O)C1=C(C2=C(C3CCCN3C2=O)N=C1CC1=CC=C(C=C1)F)C1=CC=C(N=N1)C(=O)O | C25H21FN4O5
reactant | furfurylamine | 19.3 mmol | C(C1=CC=CO1)N | C5H7NO
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.14 mmol, 26.7 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.14 mmol, 18.8 mg | O.ON1N=NC2=C1C=CC=C2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Ethyl 2-(4-fluorobenzyl)-4-(6-{[(2-furylmethyl)amino]carbonyl}-3-pyridazinyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-α]pyrrolizine-3-carboxylate | FC1=CC=C(CC=2C(=C(C3=C(C4CCCN4C3=O)N2)C=2N=NC(=CC2)C(=O)NCC=2OC=CC2)C(=O)OCC)C=C1 | C30H26FN5O5
